US07087598B2
Step A: Preparation of Methyl (2E)-[(2-chlorophenyl)hydrazono]acetate
To a solution of methyl glyoxylate (6.8 g, 77 mmol) in methanol (150 mL) was added 2-chlorophenylhydrazine hydrochloride (12.5 g, 77 mmol) and the mixture was heated at reflux overnight, cooled and concentrated. The residue was re-dissolved in toluene and concentrated to give the title compound of Step A.

reactant | methyl glyoxylate | 77 mmol, 6.8 g | C(C=O)(=O)OC | C3H4O3
reactant | 2-chlorophenylhydrazine hydrochloride | 77 mmol, 12.5 g | Cl.ClC1=C(C=CC=C1)NN
solvent | methanol | 150 mL | CO | CH4O
product | Methyl (2E)-[(2-chlorophenyl)hydrazono]acetate | ClC1=C(C=CC=C1)N\N=C\C(=O)OC | C9H9ClN2O2
